US07160888B2
Synthesis of 7-{4-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-butoxy}-1H-[1,8]naphthyridin-2-one
To a solution of 4-(7-oxo-7,8-dihydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde (crude from previous reaction) in dichloroethane (6 mL) was added 2,3-dichlorophenylpiperazine hydrochloride (321 mg, 1.20 mmol) followed by Et3N (0.34 mL, 2.40 mmol, 2 equiv). The resulting suspension was stirred for 5 min and NaBH(OAc)3 (356 mg, 1.68 mmol, 1.4 equiv) was added as a powder. The reaction was stirred at room temperature for 2 h. The reaction was quenched with saturated NaHCO3 and H2O and the mixture was extracted with EtOAc. The organic layer was washed with saturated NaHCO3 and brine, dried over Na2SO4 and concentrated. Purification by liquid chromatography (4–5% MeOH/CH2Cl2) gave the title compound as a white foam (378 mg, 0.845 mmol, 70% over 2 steps). The foam was dissolved in Et2O/CH2Cl2 and 1 N HCl in Et2O (0.82 mL) was added. The resulting white precipitate was collected by filtration, washed with Et2O and dried to give a white solid (355 mg). MS: APCI: M+1: 447.1 (Exact Mass: 446.13).

reactant | 4-(7-oxo-7,8-dihydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde | O=C1C=CC=2C=CC(=NC2N1)OCCCC=O | C12H12N2O3
reactant | 2,3-dichlorophenylpiperazine hydrochloride | 1.20 mmol, 321 mg | Cl.ClC1=C(C=CC=C1Cl)N1CCNCC1
reactant | Et3N | 2.40 mmol, 0.34 mL, 2 equiv | CCN(CC)CC | C6H15N
reactant | NaBH(OAc)3 | 1.68 mmol, 356 mg, 1.4 equiv | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | dichloroethane | 6 mL | ClC(C)Cl | C2H4Cl2
product | 7-{4-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-butoxy}-1H-[1,8]naphthyridin-2-one | 0.845 mmol, 378 mg, 70% | ClC1=C(C=CC=C1Cl)N1CCN(CC1)CCCCOC1=CC=C2C=CC(NC2=N1)=O | C22H24Cl2N4O2
